US06310056B1
To a solution of 0.35 g of allyl (1S,5R,6S)-6-((1R)-1-t-butyldimethylsilyloxyethyl)-2-(imidazo[5,1-b]thiazole-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate in 12 ml of THF was added under ice-cooling 0.66 ml of acetic acid and 2.9 ml of a 1 M solution of tetra-n-butyl-ammonium fluoride in THF, and the mixture was stirred at room temperature for 36 hours. The reaction mixture was diluted with 50 ml of ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and saturated aqueous saline in this sequence, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue thus obtained was purified by column chromatography on silica gel (ethyl acetate) to give 0.16 g of allyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | allyl (1S,5R,6S)-6-((1R)-1-t-butyldimethylsilyloxyethyl)-2-(imidazo[5,1-b]thiazole-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 0.35 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=NC=C3SC=CN32)C(=O)OCC=C)C1=O | C24H33N3O4SSi
reactant | acetic acid | 0.66 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butyl-ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | allyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-5-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 0.16 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=NC=C3SC=CN32)C(=O)OCC=C)C1=O | C18H19N3O4S
